US06015905
Dimethyl sulphate (0.4 ml, 4.2 mmol) was added dropwise to a mixture of (E)-methyl 2-[2-(6-chloropyrid-2-yloxymethyl)phenyl]-3-hydroxyacrylate (1.04 g, 2.9 mmol) and anhydrous potassium carbonate (0.78 g, 5.6 mmol) in dry DMF (10 ml). After stirring at room temperature for 3 hours, the mixture was poured into water and extracted with ethyl acetate. The ethyl acetate extracts were washed with water, dried and concentrated to give an oil which was purified by column chromatography (silica eluted with 20% ethyl acetate in hexane) to give (E)-methyl 2-[2-(6-chloropyrid-2-yloxymethyl)phenyl]-3-methoxyacrylate (Compound No.244 in Table I of EP-A-0278595) (0.72 g, 74%) as a cream solid; mp 91-92° C.; 1H NMR (270 MHz)δ: 3.69(3H,s), 3.83(3H,s), 5.26(2H,s), 6.63(1H,d), 6.90(1H,s), 7.15-7.55(5H,m), 7.56(1H,s) ppm.

reactant | Dimethyl sulphate | 4.2 mmol, 0.4 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | (E)-methyl 2-[2-(6-chloropyrid-2-yloxymethyl)phenyl]-3-hydroxyacrylate | 2.9 mmol, 1.04 g | ClC1=CC=CC(=N1)OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\O | C16H14ClNO4
reactant | potassium carbonate | 5.6 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (E)-methyl 2-[2-(6-chloropyrid-2-yloxymethyl)phenyl]-3-methoxyacrylate | 0.72 g, 74% | ClC1=CC=CC(=N1)OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C17H16ClNO4
